US08431603B2
(1d) Ethyl 3-[2,6-dimethoxy-4-(methoxymethyl)phenyl]-6-hydroxypyrazolo[5,1-b][1,3]thiazole-7-carboxylate
Acetone (235 mL) was added to ethyl 3-{[4-(2,6-dimethoxy-4-(methoxymethyl)phenyl]-2-thioxo-1,3-thiazole-3(2H)-yl]-amino}-3-oxopropanoate (11.7 g, 27.6 mmol), and then iodomethane (17.1 mL, 276 mmol) was added dropwise at room temperature and the mixture was stirred for 23 hours. The solvent in the filtrate was distilled off under reduced pressure. To the obtained residue were added tert-butanol (235 mL) and potassium tert-butoxide in that order, and the mixture was stirred at room temperature for 3.5 hours. Water was added to the mixture while cooling on ice, and then aqueous 2N hydrochloric acid was added until the pH of the mixture reached approximately 4. The precipitated solid was collected by filtration, and the resulting residue was washed with water and dried under reduced pressure to obtain the title compound (6.3 g, 16 mmol).

reactant | ethyl 3-{[4-(2,6-dimethoxy-4-(methoxymethyl)phenyl]-2-thioxo-1,3-thiazole-3(2H)-yl]-amino}-3-oxopropanoate | 27.6 mmol, 11.7 g | COC1=C(C(=CC(=C1)COC)OC)C=1N(C(SC1)=S)NC(CC(=O)OCC)=O | C18H22N2O6S2
reactant | iodomethane | 276 mmol, 17.1 mL | IC | CH3I
solvent | Acetone | 235 mL | CC(=O)C | C3H6O
product | Ethyl 3-[2,6-dimethoxy-4-(methoxymethyl)phenyl]-6-hydroxypyrazolo[5,1-b][1,3]thiazole-7-carboxylate | 16 mmol, 6.3 g | COC1=C(C(=CC(=C1)COC)OC)C=1N2C(SC1)=C(C(=N2)O)C(=O)OCC | C18H20N2O6S
